US04268509
A mixture of 1-[1-(acetamidomethyl)ethyl]-1H-tetrazole-5-thiol (23 g) and 6 N aqueous hydrochloric acid (300 ml) was refluxed for 2 hours under stirring and evaporated to dryness. The residue was triturated with diethyl ether to give 1-[1-(aminomethyl)ethyl]-1H-tetrazole-5-thiol hydrochloride (19 g), mp 208° to 210° C.

reactant | 1-[1-(acetamidomethyl)ethyl]-1H-tetrazole-5-thiol | 23 g | C(C)(=O)NCC(C)N1N=NN=C1S | C6H11N5OS
reactant | hydrochloric acid | 6 N, 300 ml | Cl | ClH
product | 1-[1-(aminomethyl)ethyl]-1H-tetrazole-5-thiol hydrochloride | 19 g | Cl.NCC(C)N1N=NN=C1S | InChI=1S/C4H9N5S.ClH/c1-3(2-5)9-4(10)6-7-8-9;/h3H,2,5H2,1H3,(H,6,8,10);1H
